US03983124
A solution of 24.5 g (0.052 mole) of 2,7-bis(4-piperidinobutyryl)fluorene dissolved in 400 ml of methanol is cooled to -10°C. and 3.8 g (0.1 mole) of sodium borohydride is slowly added wih stirring. The reaction mixture is gradually permitted to come to room temperature and stirring continued for an additional 16 hours. The contents of the reaction mixture are poured into approximately 1 liter of water, and the resulting solid which forms is filtered, washed with water and recrystallized from a solution of benzene. Recrystallization from a benzene-ether mixture results in the preparation of α, α'-bis(3-piperidinopropyl)-2,7-fluorenedimethanol having a m.p. of 181.5°-4.0°C, λmaxEtOH 273, and E 1cm1% 592.

reactant | 2,7-bis(4-piperidinobutyryl)fluorene | 0.052 mole, 24.5 g | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O2
reactant | sodium borohydride | 0.1 mole, 3.8 g | [BH4-].[Na+]
reactant | water | approximately 1 liter | O | H2O
solvent | methanol | 400 ml | CO | CH4O
product | α, α'-bis(3-piperidinopropyl)-2,7-fluorenedimethanol | N1(CCCCC1)CCCC(O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(O)CCCN1CCCCC1 | C31H44N2O2
